US07776857B2
A round bottom flask was charged with (R)-methyl 1-(2-(((9H-fluoren-9-yl)methoxy)carbonyl)acetyl)-4,4-difluoropyrrolidine-2-carboxylate (1.10 g, 2475 μmol) and 25 mL MeOH. Piperidine (1225 μl, 12375 μmol) was added, and the mixture was stirred at RT overnight. The mixture was concentrated and purified by silica gel chromatography, DCM in 90/10 DCM/MeOH to provide (S)-7,7-difluoro-hexahydropyrrolo[1,2-a]pyrazine-1,4-dione as a white solid. GC/MS: [M+H]=191.

reactant | (R)-methyl 1-(2-(((9H-fluoren-9-yl)methoxy)carbonyl)acetyl)-4,4-difluoropyrrolidine-2-carboxylate | 2475 μmol, 1.10 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)CC(=O)N1[C@H](CC(C1)(F)F)C(=O)OC | C23H21F2NO5
reactant | Piperidine | 12375 μmol, 1225 μl | N1CCCCC1 | C5H11N
solvent | MeOH | 25 mL | CO | CH4O
product | (S)-7,7-difluoro-hexahydropyrrolo[1,2-a]pyrazine-1,4-dione | FC1(C[C@@H]2N(C(CNC2=O)=O)C1)F | C7H8F2N2O2
